US09428452B2
N-(5-chloro-2-fluorophenyl)-N-isobutyl-4-vinylbenzenesulfonamide
To a solution of N-(5-chloro-2-fluorophenyl)-4-vinylbenzenesulfonamide (822 mg, 2.64 mmol) in acetonitrile (10 mL) stirred in air at 20° C., was added 2-(tert-butyl)-1,1,3,3-tetramethylguanidine (903 mg, 5.27 mmol). The reaction mixture was stirred at 20° C. for 2 hours. 1-bromo-2-methylpropane (0.573 mL, 5.27 mmol) was then added and the reaction vessel sealed and heated by microwaves (Emrys Optimiser) to 150° C. for 30 minutes. After cooling, the reaction mixture was concentrated in vacuo and redissolved in ethyl acetate. The organic phase was washed with water (10 mL), dried using a hydrophobic frit and evaporated in vacuo to give the crude product as a yellow oil which solidified. The crude was purified by silica (Si) chromatography using a 0-50% ethyl acetate-cyclohexane gradient. The appropriate fractions were combined and evaporated in vacuo to give the required product, 824 mg as a colourless oil. LCMS [LCMS2] Rt 1.46 min, m/z (ES+) 368 (M+H).

reactant | N-(5-chloro-2-fluorophenyl)-4-vinylbenzenesulfonamide | 2.64 mmol, 822 mg | ClC=1C=CC(=C(C1)NS(=O)(=O)C1=CC=C(C=C1)C=C)F | C14H11ClFNO2S
reactant | 2-(tert-butyl)-1,1,3,3-tetramethylguanidine | 5.27 mmol, 903 mg | C(C)(C)(C)N=C(N(C)C)N(C)C | C9H21N3
reactant | 1-bromo-2-methylpropane | 5.27 mmol, 0.573 mL | BrCC(C)C | C4H9Br
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | N-(5-chloro-2-fluorophenyl)-N-isobutyl-4-vinylbenzenesulfonamide | ClC=1C=CC(=C(C1)N(S(=O)(=O)C1=CC=C(C=C1)C=C)CC(C)C)F | C18H19ClFNO2S
